datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24])[H:11],19.3301
[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]=[C:5]1[H:12])([H:6])([H:7])[H:8]>>[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:11])[C:4]([H:10])=[C:5]1[H:12])([H:6])([H:7])[H:8],116.3152
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[C:7]([O:8])([H:9])([H:10])[H:11]>>[C:0]([H:3])([H:4])[H:5].[O:1]([O:2][H:6])[O:8][C:7]([H:9])([H:10])[H:11],222.936
[C:0]([C:1]([N:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[H:9]>>[C:0]([C:1](=[N:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][H:9],-3.740496
[C:0]([O:1][O:2][O:3][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7].[H:11]>>[C:0]([O:1])([H:5])([H:6])[H:7].[O:2]([O:3][C:4]([H:8])([H:9])[H:10])[H:11],38.1455
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[H:20])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:17]([C:16]#[C:15][H:19])([C:18]([H:21])([H:22])[H:23])[H:20])[H:7],26.0245
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:18])([H:19])[H:20])([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26],42.2584
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][O:9],19.49744
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:13][O:12][C:11]([H:14])([H:15])[H:16],61.96504
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([S:8][H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([S:2][H:5])[H:12])([H:3])[H:4].[C:6]([C:7]([S:8][H:14])[H:13])([H:9])([H:10])[H:11],-15.8992
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([H:22])([H:23])[H:24])[H:11])([H:9])[H:10],15.4808
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],6.81992
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][C:9]([H:10])([H:11])[H:12],53.7644
[C:0]([S:1])([H:2])([H:3])[H:4].[S:5]([H:6])[H:7]>>[C:0]([S:1][S:5][H:7])([H:2])([H:3])[H:4].[H:6],103.763
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:24]([C:23]([H:26])([H:27])[H:28])([C:25]([H:30])([H:31])[H:32])[H:29])[H:13])([H:11])[H:12],13.598
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:13])[H:12],60.2078
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[O:5][C:6]([H:14])([H:15])[H:16])[H:7].[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7].[O:5]([C:6]([H:14])([H:15])[H:16])[H:17],75.3174
[C:1]([C:2](=[C:3]([c:4]1[c:6][c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]1[H:15])[H:16])[H:17])(=[C:18]([H:19])[H:20])[H:21]>>[C:1]1([H:21])[C:2]([H:17])=[C:3]([H:16])[c:4]2[c:6]([H:15])[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]2[C:18]1([H:19])[H:20],23.66052
